US06248739B1
Ethyl 1-cyclopropyl-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxylate
To a flask containing diethyl 2-[(cyclopropyl-4-iodoanilino)methylene]malonate from Preparation No. 18 (0.22 g) is added polyphosphoric acid (1.4 g). The reaction mixture is capped and heated to 120° C. over 1 hour. After 2 hours at 120° C. the reaction is cooled to room temperature, treated with ice and partioned between dichloromethane and saturated aqueous bicarbonate. The basic aqueous layer is extracted with two additional portions of dichloromethane. The combined organic layers are washed with brine, dried over sodium sulfate and concentrated under reduced pressure to afford 0.19 g of the title compound as a tan solid.

reactant | diethyl 2-[(cyclopropyl-4-iodoanilino)methylene]malonate | C1(CC1)N(C1=CC=C(C=C1)I)C=C(C(=O)OCC)C(=O)OCC | C17H20INO4
reactant | bicarbonate | C([O-])(O)=O
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl 1-cyclopropyl-6-iodo-4-oxo-1,4-dihydro-3-quinolinecarboxylate | 0.19 g | C1(CC1)N1C=C(C(C2=CC(=CC=C12)I)=O)C(=O)OCC | C15H14INO3
